US08420816B2
1-tert-Butyl 4-methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate (211 mg, 0.692 mmol) was dissolved in MeOH (10 mL) and tert-butyl 4-amino-4-ethylpiperidine-1-carboxylate (158 mg, 0.692 mmol) were added followed by 2 drops of acetic acid. The solution was allowed to stir at room temperature for 2 h. Then sodium cyanoborohydride (44 mg, 0.692 mmol) was added over the course of 6 h at room temperature. The solution was quenched with water and extracted with ethyl acetate. The organics were dried over MgSO4 and concentrated in vacuo. Purification by silica gel chromatography (70% EtOAc/Hexanes) gave 127 mg of 1-tert-butyl 4-methyl 3-((1-(tert-butoxycarbonyl)-4-ethylpiperidin-4-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate. [M+H] found 417.

reactant | 1-tert-Butyl 4-methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate | 0.692 mmol, 211 mg | C(=O)C1=CN(C=2N=CC=C(C21)C(=O)OC)C(=O)OC(C)(C)C | C15H16N2O5
reactant | tert-butyl 4-amino-4-ethylpiperidine-1-carboxylate | 0.692 mmol, 158 mg | NC1(CCN(CC1)C(=O)OC(C)(C)C)CC | C12H24N2O2
reactant | sodium cyanoborohydride | 0.692 mmol, 44 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 1-tert-butyl 4-methyl 3-((1-(tert-butoxycarbonyl)-4-ethylpiperidin-4-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate | 127 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC)NCC1=CN(C=2N=CC=C(C21)C(=O)OC)C(=O)OC(C)(C)C | C27H40N4O6
